US06727264B1
N-(3-{1-[3-([1,1′-BIPHENYL]-4-YLOXY)-3-(4-BROMOPHENYL)PROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure A and Scheme AN using N-(3-{1-[3-(4-bromophenyl)-3-hydroxypropyl]-4-piperidinyl}phenyl)-2-methylpropanamide and 4-phenylphenol: ESMS m/e: 611.2 (M+H)+.

reactant | N-(3-{1-[3-(4-bromophenyl)-3-hydroxypropyl]-4-piperidinyl}phenyl)-2-methylpropanamide | BrC1=CC=C(C=C1)C(CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)O | C24H31BrN2O2
reactant | 4-phenylphenol | C1(=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O
product | N-(3-{1-[3-([1,1′-BIPHENYL]-4-YLOXY)-3-(4-BROMOPHENYL)PROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | C1(=CC=C(C=C1)OC(CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=C(C=C1)Br)C1=CC=CC=C1 | C36H39BrN2O2
